US07960394B2
2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-7-methoxy-3-methyl quinazolin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 2-amino-4-methoxybenzoic acid, methylamine and 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 2-amino-4-methoxybenzoic acid | NC1=C(C(=O)O)C=CC(=C1)OC | C8H9NO3
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclobutyl-4-piperidinyl)oxy]benzaldehyde | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C16H21NO2
product | 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-7-methoxy-3-methyl quinazolin-4(3H)-one | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(N1C)=O)OC | C25H29N3O3
